US09340506B2
tert-butyl 3-[(6-amino-3-pyridyl)oxy]benzoate
To a solution of tert-butyl 3-[(6-nitro-3-pyridyl)oxy]benzoate (1.0 g, 3.161 mmol), in ethyl acetate (20 mL) was added 10% Pd on carbon (0.2 g, 20% w/w), and reaction mixture was stirred under H2 gas balloon for 6 h. Completion of reaction was confirmed by TLC. Reaction mixture was filtered through celite pad washed with ethyl acetate, filtrate was concentrated under reduced pressure to afford pure product (0.9 g).

reactant | tert-butyl 3-[(6-nitro-3-pyridyl)oxy]benzoate | 3.161 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=N1)OC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C16H16N2O5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.2 g | [Pd] | Pd
product | tert-butyl 3-[(6-amino-3-pyridyl)oxy]benzoate | 0.9 g | NC1=CC=C(C=N1)OC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C16H18N2O3
